US06667327B2
c) 5-(3-Fluoro-benzyloxy)-pyridine-2-carboxylic Acid
A mixture of 5-(3-fluoro-benzyloxy)-pyridine-2-carbaldehyde (600 mg, 2.6 mmol), hydrogen peroxide (aq. 35%, 4 ml, 118 mmol) acetone (20 ml) and a catalytic amount of MnO2 was heated under reflux for 4 h. The solvent was evaporated and the residue was triturated with water. The precipitate was collected to give the title compound as a white solid (628 mg, 98%). MS: m/e =247.1 (M+).

reactant | 5-(3-fluoro-benzyloxy)-pyridine-2-carbaldehyde | 2.6 mmol, 600 mg | FC=1C=C(COC=2C=CC(=NC2)C=O)C=CC1 | C13H10FNO2
reactant | hydrogen peroxide | 118 mmol, 4 ml | OO | H2O2
catalyst | MnO2 | O=[Mn]=O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 5-(3-Fluoro-benzyloxy)-pyridine-2-carboxylic Acid | 628 mg, 98% | FC=1C=C(COC=2C=CC(=NC2)C(=O)O)C=CC1 | C13H10FNO3
